US06939887B2
Synthesis of ethyl 4-chlorophenyl[2,4-diamino-6-(trifluoromethyl)phenyl]carbamate
Ethyl 4-chlorophenyl[2,4-dinitro-6-(trifluoromethyl)phenyl]carbamate (1.7323 g) was dissolved in methanol (100 ml), and to the solution was added titanium(III) chloride solution (36.967 g) under ice-cooling. The reaction mixture was stirred for 2 hours. To the reaction mixture was added saturated aqueous sodium bicarbonate solution (800 ml), and the mixture was extracted 2 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The resultant residue was purified by silica gel column (70 g, CHCl3:methanol=10:1) to give the title compound (1.2292 g, 82%).

reactant | Ethyl 4-chlorophenyl[2,4-dinitro-6-(trifluoromethyl)phenyl]carbamate | 1.7323 g | ClC1=CC=C(C=C1)N(C(OCC)=O)C1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C16H11ClF3N3O6
reactant | sodium bicarbonate | 800 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 100 ml | CO | CH4O
catalyst | titanium(III) chloride | 36.967 g | [Cl-].[Ti+3].[Cl-].[Cl-]
product | ethyl 4-chlorophenyl[2,4-diamino-6-(trifluoromethyl)phenyl]carbamate | 1.2292 g, 82% | ClC1=CC=C(C=C1)N(C(OCC)=O)C1=C(C=C(C=C1C(F)(F)F)N)N | C16H15ClF3N3O2
